US05571811
A mixture of (±)-ethyl 4-[5-[2-[1-(4-chlorobenzoyl)propyl]-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl]-2-pyridinyl]-1-piperazinecarboxylate (24 g) in hydrobromic acid, 48% solution in water (250 ml) was stirred and refluxed overnight. The solvent was evaporated and the residue was dissolved in CH2Cl2, neutralized with NH4OH/H2O and extracted with CH2Cl2. The organic layer was washed with water, dried, filtered and evaporated. A sample (3.5 g) of the residue (total 18 g) was purified by column chromatography over silica gel (eluent: CH2Cl2/ (CH3OH/NH3) 99/1 ). The pure fractions were collected and evaporated. The residue was dissolved in 2-propanol and crystallized into the hydrochloric acid salt (1:1) in 2-propanol. The precipitate was filtered off, washed with 2-propanol and dried at 150° C. The product was dissolved in 2-propanol. Pyridine was added dropwise until all the product was dissolved and subsequently crystallized. The precipitate was filtered off and dried, yielding 1.7 g (±)-2-[1-(4-chlorobenzoyl)propyl]-2,4-dihydro-4-[6-(1-piperazinyl)-3-pyridinyl]-3H-1,2,4-triazol-3-one monohydrochloride (39.4%); mp. 209.8° C. (interm. 1). b) A mixture of benzenesulfonyl chloride (0.044 g) and intermediate 1(0.1 g) in CH2Cl2 (10 ml) and N,N-diethylethanamine (1 ml) was stirred at room temperature overnight. The mixture was purified by HPLC over silica gel (eluent: CH2Cl2 100 to CH2Cl2 /CH3OH 90/10 over a 20 minutes period and 120ml/min.). The desired fraction was collected and evaporated, yielding a solution of 0.119 g (85%) in DMSO (10.5 ml) of (±)-1-[5-[2-[1-(4-chlorobenzoyl)propyl]-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4yl]-2-Pyridinyl]-4-(phenylsulfonyl)piperazine (comp. 1). In a similar manner were prepared:

reactant | (±)-ethyl 4-[5-[2-[1-(4-chlorobenzoyl)propyl]-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl]-2-pyridinyl]-1-piperazinecarboxylate | 24 g | ClC1=CC=C(C(=O)C(CC)N2N=CN(C2=O)C=2C=CC(=NC2)N2CCN(CC2)C(=O)OCC)C=C1 | C24H27ClN6O4
solvent | hydrobromic acid | Br | BrH
solvent | water | 250 ml | O | H2O
product | (±)-2-[1-(4-chlorobenzoyl)propyl]-2,4-dihydro-4-[6-(1-piperazinyl)-3-pyridinyl]-3H-1,2,4-triazol-3-one monohydrochloride | 1.7 g, 39.4% | Cl.ClC1=CC=C(C(=O)C(CC)N2N=CN(C2=O)C=2C=NC(=CC2)N2CCNCC2)C=C1 | InChI=1S/C21H23ClN6O2.ClH/c1-2-18(20(29)15-3-5-16(22)6-4-15)28-21(30)27(14-25-28)17-7-8-19(24-13-17)26-11-9-23-10-12-26;/h3-8,13-14,18,23H,2,9-12H2,1H3;1H
